US07897624B2
Step c: 1-(2-Hydroxyethyl)-N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)cyclopropanesulfonamide
To a solution of 1-[2-(tertbutyldimethylsilanyloxy)ethyl]-N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)cyclopropanesulfonamide (20 mg, 0.032 mmol) in THF (2 mL) at 0° C. is added 1N HCl (0.128 mL. 0.128 mmol). The ice-bath is removed after 30 minutes and the solution stirred at room temperature for 45 minutes. Then the solution is cooled to 0° C., saturated NaHCO3 (3 mL) solution is added, and extracted with ethyl acetate (3×5 mL). The combined organic layers are concentrated under reduced pressure to give the title compound.

reactant | 1-[2-(tertbutyldimethylsilanyloxy)ethyl]-N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)cyclopropanesulfonamide | 0.032 mmol, 20 mg | C(C)(C)(C)[Si](OCCC1(CC1)S(=O)(=O)NC1=CN(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)C)(C)C | C24H35FIN3O4SSi
reactant | HCl | 0.128 mmol, 1N, 0.128 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-Hydroxyethyl)-N-(4-(2-fluoro-4-iodophenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridin-3-yl)cyclopropanesulfonamide | OCCC1(CC1)S(=O)(=O)NC1=CN(C(C(=C1NC1=C(C=C(C=C1)I)F)C)=O)C | C18H21FIN3O4S
